US05273975
5-(Dimethylamino)-5,6-dihydro-8-methoxy-4H-imidazo(4,5,1-ij)quinoline-2(1H)-one (compound 62)
This compound was prepared by following the procedure of Example 44 part B, but substituting, 1,2,3,4-tetrahydro-6methoxy-N3,N3 -dimethyl- 3,8-quinolinediamine for t-butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate.

reactant | 1,2,3,4-tetrahydro-6methoxy-N3,N3 -dimethyl- 3,8-quinolinediamine | COC=1C=C2CC(CNC2=C(C1)N)N(C)C | C12H19N3O
reactant | t-butyl (8-amino-1,2,3,4-tetrahydro-3-quinolyl)carbamate | NC=1C=CC=C2CC(CNC12)NC(OC(C)(C)C)=O | C14H21N3O2
product | 5-(Dimethylamino)-5,6-dihydro-8-methoxy-4H-imidazo(4,5,1-ij)quinoline-2(1H)-one | CN(C1CN2C3=C(C=C(C=C3C1)OC)NC2=O)C | C13H17N3O2
